US05750531
Step 1: 2,4-Dihydroxy-5,6,7,8-tetrahydroquinazoline
A mixture solution of 2,4-dihydroxyquinazoline(39.2 g, 0.24 mol), platinium oxide(4 g) and trifluoroacetic acid(300 ml) was hydrogenated by Parr reactor for 2 hours. Platinium was filtered and the filtrate was concentrated, diluted with water, and basified with 1N-NaOH solution. The resulting solid was filtered and dried to give 13.76 g of the titled compound. (Yield: 34.5%)

reactant | 2,4-dihydroxyquinazoline | 0.24 mol, 39.2 g | OC1=NC2=CC=CC=C2C(=N1)O | C8H6N2O2
catalyst | platinium oxide | 4 g | O=[Pt]=O
solvent | trifluoroacetic acid | 300 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2,4-Dihydroxy-5,6,7,8-tetrahydroquinazoline | 13.76 g, Yield: 34.5% | OC1=NC=2CCCCC2C(=N1)O | C8H10N2O2
